US08377923B2
Sodium borohydride (245 mg) was added to a mixture of 3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzonitrile (438 mg), cobalt chloride (II) hexahydrate (515 mg) and methanol (10 ml), followed by stirring at room temperature for one hour. Water, a 1M aqueous sodium hydroxide solution and ethyl acetate were added to the reaction solution, followed by celite filtration. The filtrate was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=100:1 to 10:1). The resulting residue was dissolved in ethyl acetate, 4M hydrogen chloride-ethyl acetate (2 ml) was added thereto and the solvent was evaporated under reduced pressure. The residue was washed with ethyl acetate to obtain 1-(3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}phenyl}methanamine dihydrochloride (141 mg) as a white solid.

reactant | Sodium borohydride | 245 mg | [BH4-].[Na+]
reactant | 3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzonitrile | 438 mg | ClC=1C=C(C#N)C=CC1C1=NN=C(N1C)C(C)(OC1=C(C=C(C=C1F)F)F)C | C19H14ClF3N4O
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium hydroxide | 1M | [OH-].[Na+]
catalyst | cobalt chloride | 515 mg | [Co](Cl)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 1-(3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}phenyl}methanamine dihydrochloride | 141 mg | Cl.Cl.ClC=1C=C(C=CC1C1=NN=C(N1C)C(C)(OC1=C(C=C(C=C1F)F)F)C)CN | InChI=1S/C19H18ClF3N4O.2ClH/c1-19(2,28-16-14(22)7-11(21)8-15(16)23)18-26-25-17(27(18)3)12-5-4-10(9-24)6-13(12)20;;/h4-8H,9,24H2,1-3H3;2*1H
